US08470859B2
5-chloro-1-(5-chloro-2-cyanobenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride
To a solution of 2-amino-5-chloronicotinamide (0.15 g) in N,N-dimethylformamide (3 ml) was added 2-(bromomethyl)-4-chlorobenzonitrile (0.31 g), and the mixture was stirred at 100° C. for 14 hr. The reaction mixture was quenched with saturated aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel chromatography (ethyl acetate:hexane=3:2-4:1). 2N Hydrochloric acid-methanol solution (1 ml) was added to the obtained yellow oil at room temperature, and the obtained precipitate was recrystallized from methanol-ethyl acetate to give the title compound (2 mg).

reactant | 2-amino-5-chloronicotinamide | 0.15 g | NC1=C(C(=O)N)C=C(C=N1)Cl | C6H6ClN3O
reactant | 2-(bromomethyl)-4-chlorobenzonitrile | 0.31 g | BrCC1=C(C#N)C=CC(=C1)Cl | C8H5BrClN
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 5-chloro-1-(5-chloro-2-cyanobenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride | 2 mg | Cl.ClC=1C=C(C(N(C1)CC1=C(C=CC(=C1)Cl)C#N)=N)C(=O)N | InChI=1S/C14H10Cl2N4O.ClH/c15-10-2-1-8(5-17)9(3-10)6-20-7-11(16)4-12(13(20)18)14(19)21;/h1-4,7,18H,6H2,(H2,19,21);1H
